US04513005
A solution of methyl (Z)-6-phenyl-5-hexenoate (2.0 g) in dioxan (20 ml) and 10% sodium carbonate solution (20 ml) was heated under reflux for 6 hours and evaporated to low volume. The residue was diluted with water, washed with ether, acidified and extracted with ether. The extract was dried and evaporated to give (Z)-6-phenyl-5-hexenoic acid.

reactant | methyl (Z)-6-phenyl-5-hexenoate | 2.0 g | C1(=CC=CC=C1)\C=C/CCCC(=O)OC | C13H16O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
product | (Z)-6-phenyl-5-hexenoic acid | C1(=CC=CC=C1)\C=C/CCCC(=O)O | C12H14O2
